US05238948
27. Bis(2-methoxy-ethyl) pyridine-2,5-dicarboxylate
Analogously to Example 26, 10 g of pyridine-2,5-dicarboxylic acid are converted into the acid chloride and this is reacted with 9.1 g of ethylene glycol monomethyl ether. Working up is carried out in accordance with Example 26. The product is obtained as an oil.

reactant | pyridine-2,5-dicarboxylic acid | 10 g | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | ethylene glycol monomethyl ether | 9.1 g | COCCO | C3H8O2
product | Bis(2-methoxy-ethyl) pyridine-2,5-dicarboxylate | N1=C(C=CC(=C1)C(=O)OCCOC)C(=O)OCCOC | C13H17NO6
